US07994185B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-pyridinesulfonamide
To a solution of 3-(5-(2-chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-fluoroaniline (3 g, 7.7 mmol) in pyridine (15 mL) was added pyridine-3-sulfonyl chloride (1.49 g, 8.4 mmol) dropwise to the mixture. The reaction was stirred at rt overnight. The reaction was washed with water (100 mL), and extracted with DCM (2×100 mL). The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to give the crude product, which was purified by column chromatography on silica gel (petroleum ether:EtOAc 5:1) to afford the title compound of Step A (2.9 g, 71.5% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.55-10.60 (br, 1H), 8.82-8.86 (m, 1H), 8.72-8.76 (m, 1H), 8.30 (d, J=5.3 Hz, 1H), 8.07-8.13 (m, 1H), 7.51-7.52 (m, 1H), 7.39-7.47 (m, 1H), 7.27-7.40 (m, 2H), 6.47 (d, J=5.3 Hz, 1H) 3.47-3.57 (m, 4H), 3.67-3.75 (m, 4H). MS (ES+): 533 [M+H]+.

reactant | 3-(5-(2-chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-fluoroaniline | 7.7 mmol, 3 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(N)C=CC1)F | C17H15ClFN5OS
reactant | pyridine-3-sulfonyl chloride | 8.4 mmol, 1.49 g | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-pyridinesulfonamide | 2.9 g, 71.5% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C=1C=NC=CC1)F | C22H18ClFN6O3S2
